US08022218B2
(a). (1S)—N-[1-(4-Methoxy-phenyl)-ethyl]-3-oxo-butyramide
To a solution of (S)-1-(4-methoxy-phenyl)-ethylamine (25 g) in dichloromethane (60 mL) was added TEA (20 g) and DMPA (200 mg). Then a solution of 4-methylene-oxetan-2-one (16.7 g) in dichloromethane (60 ml) was added over a period of 30 minutes and then stirred at 20° C. for 18 h. The mixture was washed with 1M HCl, aq. NaHCO3 and aq. NaCl. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | (S)-1-(4-methoxy-phenyl)-ethylamine | 25 g | COC1=CC=C(C=C1)[C@H](C)N | C9H13NO
reactant | DMPA | 200 mg | CC(C)NP(=S)(OC)OC1=C(C=C(C=C1)Cl)Cl | C10H14Cl2NO2PS
reactant | 4-methylene-oxetan-2-one | 16.7 g | C=C1CC(O1)=O | C4H4O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (1S)—N-[1-(4-Methoxy-phenyl)-ethyl]-3-oxo-butyramide | COC1=CC=C(C=C1)[C@H](C)NC(CC(C)=O)=O | C13H17NO3
